US05597826
1-(1-Methylpiperidin-4-yl)-7-naphthalene carboxylic acid 4-chlorobenzylamide
A mixture of 1-(1-methylpiperidin-4-yl)-7-trifluoromethylsulfonyloxynaphthalene (1.0 g, 2.69 mmol), 4-chlorobenzylamine (0.59 mL, 4.84 mmol) and bis (triphenylphosphine)palladium chloride (0.095 g, 0.13 mmol), and triethylamine (0.56 mL, 4.04 mmol) was blanketed with an atmosphere of carbon monoxide (with the aid of a balloon) and heated to 110°-120° C. for 2 hours. Additional 4-chlorobenzylamine (0.2 mL) was added and the reaction was heated under carbon monoxide for 17 hours more. The reaction was cooled to room temperature and taken up in ethyl acetate. The mixture was extracted with water and brine, dried over calcium sulfate, and concentrated. The residue was flash chromatographed on silica gel (1.5×2.5 inches). Elution proceeded as follows: ethyl acetate, 350 mL, nil; 2% methanol/ethyl acetate, 300 mL, nil; 4% methanol/1% triethylamine/ethyl acetate, 200 mL, 0.085 g of impure product. Continued elution with 4% methanol/1% triethylamine/ethyl acetate, 200 mL, 0.266 g (25%) of the title compound as a yellow oil. 1H NMR (DMSOd6) δ 8.74 (s, 1H), 7.90 (d, J=8.5 Hz, 1H), 7.73 (dt, J=1.5, 8.5 Hz, 2H), 7.58-7.48 (m, 2H), 7.35 (s, 4H), 6.63 (br t, J=6 Hz, 1H), 4.70 (d, J=6 Hz, 2H), 3.42 (quintuplet, J=8 Hz, 1H), 3.05 (br d, J=12 Hz, 2H), 2.38 (s, 3H), 2.23 (sym m, 2H), 1.99-1.92 (m, 4H). HRMS m/e calculated for C24H25C1N2O: 393.1733. Observed m/e: 393.1747.

reactant | 1-(1-methylpiperidin-4-yl)-7-trifluoromethylsulfonyloxynaphthalene | 2.69 mmol, 1.0 g | CN1CCC(CC1)C1=CC=CC2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F | C17H18F3NO3S
reactant | 4-chlorobenzylamine | 4.84 mmol, 0.59 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | triethylamine | 4.04 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
reactant | 4-chlorobenzylamine | 0.2 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis (triphenylphosphine)palladium chloride | 0.13 mmol, 0.095 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(1-Methylpiperidin-4-yl)-7-naphthalene carboxylic acid 4-chlorobenzylamide | ClC1=CC=C(CNC(=O)C2=CC=C3C=CC=C(C3=C2)C2CCN(CC2)C)C=C1 | C24H25ClN2O
